US06414157B1
b) 1-(2-methoxyphenyl)-4-(2-chloroeth-l-yl) piperazine
At room temperature, a solution of 19.2 g (0.1 mol) of o-methoxyphenylpiperazine and 13.8 g (0.1 mol) of potassium carbonate in 200 ml of DMF was initially charged and, after 30 min, 30 ml (0.36 mol) of 1-bromo-2-chloroethane were added. The mixture was stirred at room temperature for 2 h. The mixture was poured into ice-water then extracted with methyl tert-butyl ether, and the organic phases were washed with water, dried with sodium sulfate and subsequently concentrated. The residue was dissolved in ethyl acetate and the hydrochloride was precipitated out by addition of 30% strength isopropanol/HCI solution, filtered off with suction and dried at 40° C. in a vacuum drying oven. This gave 17 g (67%) of substance. Melting point 200° C.

reactant | o-methoxyphenylpiperazine | 0.1 mol, 19.2 g | COC1N(CCNC1)C1=CC=CC=C1 | C11H16N2O
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 0.36 mol, 30 ml | BrCCCl | C2H4BrCl
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(2-methoxyphenyl)-4-(2-chloroeth-l-yl) piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CCCl | C13H19ClN2O
